US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (500 mg, 2.259 mmol) in THF (5 ml) at −78° C. was added dropwise tert-butyllithium 1.7 M in pentane (2658 μl, 4.52 mmol) and the solution was stirred for 0.5 h before addition of morpholine-4-carbonitrile (253 mg, 2.259 mmol) in THF (5 ml). The resulting solution was warmed to rt and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl. The precipitated solid was collected and washed with water to give 6-methoxy-3-morpholinoisoquinolin-1-ol (350 mg, 60% yield) as a solid after drying.

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 2.259 mmol, 500 mg | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 4.52 mmol, 2658 μl | CCCCC | C5H12
reactant | morpholine-4-carbonitrile | 2.259 mmol, 253 mg | N1(CCOCC1)C#N | C5H8N2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-methoxy-3-morpholinoisoquinolin-1-ol | 350 mg, 60% yield | COC=1C=C2C=C(N=C(C2=CC1)O)N1CCOCC1 | C14H16N2O3
